US06127398
A. 3-Nitro4-propyl-benzoic acid
9.44 g (57.5 mmol, 1.0 equiv.) of 4-propylbenzoic acid were partially dissolved in 50 mL conc. H2SO4 and chilled in an ice bath. A solution of 4.7 mL (74.7 mmol, 1.3 equiv) conc. HNO3 in 10 mL conc. H2SO4 was added dropwise over 1-2 min. After stirring 1 hour at 0° C., the reaction mixture was poured into a 1 L beaker half full with ice. After stirring 10 minutes, the white solid which formed was filtered, washed 1×H2O, and dried to give 12.01 g (100%) of the title compound: mp 106-109° C.; IR (KBr) 3200-3400, 2966, 2875, 2667, 2554, 1706, 1618, 1537, 1299, 921 cm-1 ; 1H NMR (300 MHz, DMSO-d6) d 0.90 (t, 3H, J=7.4 Hz), 1.59 (m, 2H), 2.82 (m, 2H), 7.63 (d, 1H, J=8.0 Hz), 8.12 (dd, 1H, J=1.7, 8.0 Hz), 8.33 (d, 1H, J=1.7 Hz); 13C NMR (75.5 MHz, DMSO-d6) d 14.2, 23.7, 34.2, 125.4, 130.5, 132.9, 133.6, 141.4, 149.5, 165.9; Anal. calcd for C10H11NO4.1/4H2O: C, 56.20; H, 5.42; N, 6.55. Found: C, 56.12; H, 5.31; N, 6.81.

reactant | 4-propylbenzoic acid | 57.5 mmol, 9.44 g, 1.0 equiv. | C(CC)C1=CC=C(C(=O)O)C=C1 | C10H12O2
reactant | HNO3 | 74.7 mmol, 4.7 mL, 1.3 equiv | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 50 mL | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
product | 3-Nitro4-propyl-benzoic acid | 12.01 g, 100% | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1CCC | C10H11NO4
